US06380215B1
To a solution of N-[l-{2-(1-benzyloxycarbonyl4-piperidyloxy)acetyl}-3-piperidylcarbonyl]-β-alanine methyl ester (1.33 g) in methanol (10 ml), H2O (10 ml) and tetrahydrofuran (10 ml) was added 1N NaOH (8.55 ml) under stirring at 0° C. After stirring at ambient temperature for 3 hours, the mixture was acidified with 10% KHSO4 aqueous solution, and extracted with ethyl acetate. The extract was washed with water and brine, and dried over MgSO4, and evaporated in vacuo to give N-[1-{2-(1-benzyloxycarbonyl-4-piperidyloxy)acetyl}-3-piperidylcarbonyl]-β-alanine (1.22 g) as an oil.

reactant | N-[l-{2-(1-benzyloxycarbonyl4-piperidyloxy)acetyl}-3-piperidylcarbonyl]-β-alanine methyl ester | 1.33 g | COC(CCNC(=O)C1CN(CCC1)C(COC1CCN(CC1)C(=O)OCC1=CC=CC=C1)=O)=O | C25H35N3O7
reactant | NaOH | 1N, 8.55 ml | [OH-].[Na+]
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | methanol | 10 ml | CO | CH4O
solvent | H2O | 10 ml | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-[1-{2-(1-benzyloxycarbonyl-4-piperidyloxy)acetyl}-3-piperidylcarbonyl]-β-alanine | 1.22 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)OCC(=O)N1CC(CCC1)C(=O)NCCC(=O)O | C24H33N3O7
